US03970704
To a solution of 6.2 g. of ethyl 11-methoxy-3,7,11-trimethyldodeca-2,4-dienoate in 80 ml. of dry ether is added 3.2 ml. of lithium aluminum hydride (3.9M) in ether slowly, at -78°, with stirring, under argon. The mixture is stirred for 2 hours at -78° and then warmed to about -50°. After 1 hour, the mixture is warmed slowly to about -10° over 4 hours. Then there is added 0.5 ml. of water, 0.5 ml. of 15% sodium hydroxide and 1.5 ml. of water. The mixture is then poured into water, washed with water and brine, dried over magnesium sulfate and evaporated to yield 11-methoxy-3,7,11-trimethyldodeca-2,4-dien-1-ol.

reactant | ethyl 11-methoxy-3,7,11-trimethyldodeca-2,4-dienoate | COC(CCCC(CC=CC(=CC(=O)OCC)C)C)(C)C | C18H32O3
reactant | lithium aluminum hydride | 3.9M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 11-methoxy-3,7,11-trimethyldodeca-2,4-dien-1-ol | COC(CCCC(CC=CC(=CCO)C)C)(C)C | C16H30O2
